* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__fill_4.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__fill_4 VDD VSS
R0 VDD.n16 VDD.n13 162.409
R1 VDD.n17 VDD.n16 161.851
R2 VDD.n18 VDD.n17 161.851
R3 VDD.n18 VDD.n9 161.851
R4 VDD.n22 VDD.n9 161.851
R5 VDD.n15 VDD.n10 9.8005
R6 VDD.n2 VDD.n10 2.75725
R7 VDD.n20 VDD.n19 9.8005
R8 VDD.n23 VDD.n7 9.8005
R9 VDD.n11 VDD.n0 9.8005
R10 VDD.n0 VDD.n4 9.8005
R11 VDD.n4 VDD.n6 9.8005
R12 VDD.n14 VDD.n13 8.0105
R13 VDD.n13 VDD.n12 8.0105
R14 VDD.n5 VDD.n20 2.17736
R15 VDD.n23 VDD.n6 6.6505
R16 VDD.n23 VDD.n22 6.3005
R17 VDD VDD.n23 6.3005
R18 VDD.n7 VDD.n1 6.3005
R19 VDD.n1 VDD.n3 1.77287
R20 VDD.n16 VDD.n15 6.3005
R21 VDD.n17 VDD.n10 6.3005
R22 VDD.n1 VDD.n2 1.77287
R23 VDD.n19 VDD.n18 6.3005
R24 VDD.n19 VDD.n2 2.75725
R25 VDD.n20 VDD.n9 6.3005
R26 VDD.n5 VDD.n1 2.06282
R27 VDD.n9 VDD.n6 6.3005
R28 VDD.n6 VDD 6.3005
R29 VDD.n18 VDD.n4 6.3005
R30 VDD VDD.n4 6.3005
R31 VDD.n17 VDD.n0 6.3005
R32 VDD VDD.n0 6.3005
R33 VDD.n16 VDD.n11 6.3005
R34 VDD.n21 VDD.n7 2.75725
R35 VDD.n5 VDD.n8 4.93411
R36 VDD.n21 VDD.n3 5.514
R37 VDD.n3 VDD.n8 5.514
R38 VDD.n15 VDD.n14 2.73055
R39 VDD.n12 VDD.n11 2.73055
R40 VDD.n14 VDD.n1 2.03587
R41 VDD.n12 VDD 2.03587
R42 VDD.n22 VDD.n21 1.77287
R43 VDD.n22 VDD.n8 1.77287
R44 VDD VDD.n1 1.4165
R45 VSS.n21 VSS.n10 513.399
R46 VSS.n13 VSS.n10 513.399
R47 VSS.n16 VSS.n13 513.399
R48 VSS.n17 VSS.n16 513.399
R49 VSS.n2 VSS.n19 77.902
R50 VSS.n22 VSS.n9 10.8894
R51 VSS.n14 VSS.n5 2.66071
R52 VSS.n15 VSS.n14 10.8894
R53 VSS.n18 VSS.n4 10.8894
R54 VSS.n12 VSS.n1 5.32092
R55 VSS.n22 VSS.n8 7.38939
R56 VSS.n19 VSS.n0 5.41963
R57 VSS VSS.n2 5.41963
R58 VSS.n0 VSS.n7 1.27115
R59 VSS.n16 VSS.n15 5.2005
R60 VSS.n15 VSS.n7 2.66071
R61 VSS.n14 VSS.n13 5.2005
R62 VSS.n0 VSS.n5 1.27115
R63 VSS.n10 VSS.n9 5.2005
R64 VSS.n9 VSS.n5 2.66071
R65 VSS.n22 VSS.n21 5.2005
R66 VSS VSS.n22 5.2005
R67 VSS.n8 VSS 5.2005
R68 VSS.n3 VSS 1.27115
R69 VSS.n0 VSS.n1 1.27115
R70 VSS.n18 VSS.n17 5.2005
R71 VSS.n18 VSS.n1 2.66071
R72 VSS.n0 VSS.n4 5.2005
R73 VSS.n20 VSS.n2 2.66071
R74 VSS.n11 VSS.n8 2.66071
R75 VSS.n3 VSS.n11 5.32092
R76 VSS.n20 VSS.n3 5.32092
R77 VSS.n19 VSS.n12 2.66071
R78 VSS.n6 VSS.n4 2.1609
R79 VSS.n7 VSS.n6 4.82111
R80 VSS.n17 VSS.n6 1.52105
R81 VSS VSS.n0 1.4165
R82 VSS.n21 VSS.n11 1.27115
R83 VSS.n21 VSS.n20 1.27115
R84 VSS.n17 VSS.n12 1.27115
C0 VDD VSS 2.01435f
.ends

